US07470715B2
4-{5-[1-(4-Methyl-piperazin-1-ylmethyl)-cyclopropyl]-4-phenyl-isoxazol-3-yl}-phenol
To a mixture consisting of 1-{1-[3-(4-methoxymethoxy-phenyl)-4-phenyl-isoxazol-5-yl]-cyclopropylmethyl}-4-methyl-piperazine (this example, Step B) in isopropanol is added 6 N hydrochloric acid solution. The mixture is stirred at room temperature overnight. The mixture is titrated to pH 8 with an aqueous sodium hydroxide solution and is extracted with ethyl acetate. The organic layer is separated and dried over anhydrous sodium sulfate. The mixture is filtered and the filtrate is concentrated under reduced pressure. The concentrate is purified to afford the title compound 1H NMR (400 MHz, CDCl3) δ 7.40-7.20 (m, 7H), 6.70 (d, 2H), 2.45 (m, 8H), 2.25 (s, 3H), 1.05 (m, 2H), 0.78 (m, 2H); MS (EH+) m/z 390 (MH+.)

reactant | 1-{1-[3-(4-methoxymethoxy-phenyl)-4-phenyl-isoxazol-5-yl]-cyclopropylmethyl}-4-methyl-piperazine | COCOC1=CC=C(C=C1)C1=NOC(=C1C1=CC=CC=C1)C1(CC1)CN1CCN(CC1)C | C26H31N3O3
reactant | hydrochloric acid | 6 N | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
solvent | isopropanol | C(C)(C)O | C3H8O
product | 4-{5-[1-(4-Methyl-piperazin-1-ylmethyl)-cyclopropyl]-4-phenyl-isoxazol-3-yl}-phenol | CN1CCN(CC1)CC1(CC1)C1=C(C(=NO1)C1=CC=C(C=C1)O)C1=CC=CC=C1 | C24H27N3O2
